US08623859B2
N-{4-[(3-Hydroxyazetidin-1-yl)methyl]benzyl}-2-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-1,3-oxazole-4-carboxamide
The title compound was prepared according to general procedure BH using 2-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3-oxazole-4-carboxylic acid (40 mg, 0.11 mmol), EDCI (29 mg, 0.15 mmol), HOBt (22 mg, 0.16 mmol) DIPEA (0.04 mL, 0.21 mmol), 1-{4-[(methylamino)methyl]benzyl}azetidin-3-ol dihydrochloride (35 mg, 0.13 mmol) and DCM (5 mL).

reactant | 2-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3-oxazole-4-carboxylic acid | 0.11 mmol, 40 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC=1OC=C(N1)C(=O)O)C | C15H18N2O6S
reactant | EDCI | 0.15 mmol, 29 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.16 mmol, 0.04 mL, 22 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-{4-[(methylamino)methyl]benzyl}azetidin-3-ol dihydrochloride | 0.13 mmol, 35 mg | Cl.Cl.CNCC1=CC=C(CN2CC(C2)O)C=C1
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[(3-Hydroxyazetidin-1-yl)methyl]benzyl}-2-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-1,3-oxazole-4-carboxamide | OC1CN(C1)CC1=CC=C(CN(C(=O)C=2N=C(OC2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C)C=C1 | C27H34N4O6S
